US07807676B2
Part A: To a mixture of tert-butyl piperazine-1-carboxylate (1.863 g, 10.00 mmol) and cesium carbonate (6.52 g, 20.00 mmol) in 50 mL of DMF at 25° C. was added 2-(bromoacetyl)pyridine hydrobromide (2.81 g, 10.00 mmol) in portions over five minutes. The reaction mixture then was stirred at 25° C. for 3 h. The resulting mixture was diluted with water and ethyl acetate. The phases were separated, and the organic phase was washed with water (×3) and brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Column chromatography on silica gel (elution: 10-50% ethyl acetate/chloroform) provided 1.61 g (53%) of tert-butyl 4-(2-oxo-2-(pyridin-2-yl)ethyl)piperazine-1-carboxylate as a crystalline solid; 1H NMR (500 MHz, CDCl3) δ 8.63 (d, 1H, J=4.5 Hz), 8.05 (m, 1H), 7.85 (t, 1H, J=9 Hz), 7.49 (m, 1H), 4.30 (s, 2H), 3.62 (m, 4H), 2.75 (m, 4H), 1.46 (s, 9H).

reactant | tert-butyl piperazine-1-carboxylate | 10.00 mmol, 1.863 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | cesium carbonate | 20.00 mmol, 6.52 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(bromoacetyl)pyridine hydrobromide | 10.00 mmol, 2.81 g | Br.BrCC(=O)C1=NC=CC=C1
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(2-oxo-2-(pyridin-2-yl)ethyl)piperazine-1-carboxylate | 1.61 g, 53% | O=C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1=NC=CC=C1 | C16H23N3O3
